US07153848B2
Methyl 3-cyclohexyl-1-(2-hydroxyethyl)-2-(2-hydroxypyridin-3-yl)-1H-indole-6-carboxylate
To a solution of methyl 1-(2-(benzyloxy)ethyl)-2-(2-(benzyloxy)pyridin-3-yl)-3-cyclohexyl-1H-indole-6-carboxylate (57 mg, 0.099 mmol) in ethyl acetate (10 mL), 10% Pd on carbon (10 mg) was added. The reaction mixture was stirred under an hydrogen atmosphere (1 atmos.) for three days. It was filtered through celite, and the filtrate concentrated to give the title compounds as an off-white solid, (35 mg, 90% yield). MS m/z 395(MH+); 1H NMR (300 MHz, CD3OD) □ ppm 1.24–1.40 (m, 3 H) 1.70–1.98 (m, 7 H) 2.58 (m, 1 H) 3.71 (t, J=6.04 Hz, 2 H) 3.94 (s, 3 H) 4.11 (m, 1 H) 4.22 (m, 1 H) 6.58 (t, J=6.59 Hz, 1 H) 7.58–7.76 (m, 3 H) 7.82 (d, J=8.78 Hz 1 H) 8.19 (s, 1 H).

reactant | methyl 1-(2-(benzyloxy)ethyl)-2-(2-(benzyloxy)pyridin-3-yl)-3-cyclohexyl-1H-indole-6-carboxylate | 0.099 mmol, 57 mg | C(C1=CC=CC=C1)OCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C=1C(=NC=CC1)OCC1=CC=CC=C1 | C37H38N2O4
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 10 mg | [Pd] | Pd
product | Methyl 3-cyclohexyl-1-(2-hydroxyethyl)-2-(2-hydroxypyridin-3-yl)-1H-indole-6-carboxylate | 35 mg, 90% yield | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CCO)C=1C(=NC=CC1)O | C23H26N2O4
